US04131674
A mixture of 2-(7-chloro-1,8-naphthyridin-2-yl)-3-phenoxycarbonyloxy-isoindolin-1-one (8.6 g.) and sec-butylamine (40 cc.) is heated at 65° C. until dissolution. The reaction mixture is then diluted with diisopropyl ether (240 cc.). The precipitate formed is filtered off and recrystallised from acetonitrile (60 cc.). 2-(7-Chloro-1,8-naphthyridin-2-yl)-3-sec-butylaminocarbonyloxy-isoindolin-1-one (3 g.), melting at 220°-222° C., is thus obtained.

reactant | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-phenoxycarbonyloxy-isoindolin-1-one | 8.6 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1OC(=O)OC1=CC=CC=C1)=O | C23H14ClN3O4
reactant | sec-butylamine | 40 cc | C(C)(CC)N | C4H11N
solvent | diisopropyl ether | 240 cc | C(C)(C)OC(C)C | C6H14O
product | 2-(7-Chloro-1,8-naphthyridin-2-yl)-3-sec-butylaminocarbonyloxy-isoindolin-1-one | 3 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1OC(=O)NC(C)CC)=O | C21H19ClN4O3
